### PR TITLE
[Merged by Bors] - feat(Data/List/Basic): `get` is surjective iff every element is in the list

### PR DESCRIPTION
**Pull request by SnirBroshi**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by SnirBroshi** [comment]
easy

File: Mathlib/Data/List/Basic.lean [hunk 1]
```diff
@@ -448,6 +448,19 @@ theorem forall_mem_iff_getElem {l : List α} {p : α → Prop} :
     (∀ x ∈ l, p x) ↔ ∀ (i : ℕ) (_ : i < l.length), p l[i] := by
   simp [mem_iff_getElem, @forall_swap α]
 
+theorem get_surjective_iff {l : List α} : (∀ x, x ∈ l) ↔ l.get.Surjective :=
```
Comment (themathqueen) [inline Mathlib/Data/List/Basic.lean]: this should be the other way around since it's `get_surjective_iff`
```suggestion
theorem get_surjective_iff {l : List α} : l.get.Surjective ↔ ∀ x, x ∈ l :=
```
similarly below

File: Mathlib/Data/List/Basic.lean [hunk 2]
```diff
@@ -448,6 +448,19 @@ theorem forall_mem_iff_getElem {l : List α} {p : α → Prop} :
     (∀ x ∈ l, p x) ↔ ∀ (i : ℕ) (_ : i < l.length), p l[i] := by
   simp [mem_iff_getElem, @forall_swap α]
 
+theorem get_surjective_iff {l : List α} : l.get.Surjective ↔ (∀ x, x ∈ l) :=
```
Comment (themathqueen) [inline Mathlib/Data/List/Basic.lean:449]:
```suggestion
theorem surjective_get_iff {l : List α} : l.get.Surjective ↔ (∀ x, x ∈ l) :=
```

File: Mathlib/Data/List/Basic.lean [hunk 3]
```diff
@@ -448,6 +448,19 @@ theorem forall_mem_iff_getElem {l : List α} {p : α → Prop} :
...
+  ⟨fun h x ↦ mem_iff_get.mpr <| h x, fun h x ↦ mem_iff_get.mp <| h x⟩
+
+theorem getElem_surjective_iff {l : List α} :
```
Comment (themathqueen) [inline Mathlib/Data/List/Basic.lean]:
```suggestion
theorem surjective_getElem_iff {l : List α} :
```

File: Mathlib/Data/List/Basic.lean [hunk 4]
```diff
@@ -448,6 +448,19 @@ theorem forall_mem_iff_getElem {l : List α} {p : α → Prop} :
...
+    (fun (n : Fin l.length) ↦ l[n]).Surjective ↔ (∀ x, x ∈ l) :=
+  get_surjective_iff
+
+theorem getElem?_surjective_iff {l : List α} : (fun (n : ℕ) ↦ l[n]?).Surjective ↔ (∀ x, x ∈ l) := by
```
Comment (themathqueen) [inline Mathlib/Data/List/Basic.lean:458]:
```suggestion
theorem surjective_getElem?_iff {l : List α} : (fun (n : ℕ) ↦ l[n]?).Surjective ↔ (∀ x, x ∈ l) := by
```

File: Mathlib/Data/List/Basic.lean [hunk 5]
```diff
@@ -446,6 +446,19 @@ theorem forall_mem_iff_getElem {l : List α} {p : α → Prop} :
     (∀ x ∈ l, p x) ↔ ∀ (i : ℕ) (_ : i < l.length), p l[i] := by
   simp [mem_iff_getElem, @forall_swap α]
 
+theorem surjective_get_iff {l : List α} : l.get.Surjective ↔ (∀ x, x ∈ l) :=
+  ⟨fun h x ↦ mem_iff_get.mpr <| h x, fun h x ↦ mem_iff_get.mp <| h x⟩
+
+theorem surjective_getElem_iff {l : List α} :
```
Comment (eric-wieser) [inline Mathlib/Data/List/Basic.lean]:
```suggestion
theorem surjective_getElem_fin_iff {l : List α} :
```
to make room for the `Nat` version too, which `getElem` usually refers to.

File: Mathlib/Data/List/Basic.lean [hunk 6]
```diff
@@ -446,6 +446,19 @@ theorem forall_mem_iff_getElem {l : List α} {p : α → Prop} :
     (∀ x ∈ l, p x) ↔ ∀ (i : ℕ) (_ : i < l.length), p l[i] := by
   simp [mem_iff_getElem, @forall_swap α]
 
+theorem surjective_get_iff {l : List α} : l.get.Surjective ↔ (∀ x, x ∈ l) :=
+  ⟨fun h x ↦ mem_iff_get.mpr <| h x, fun h x ↦ mem_iff_get.mp <| h x⟩
```
Comment (eric-wieser) [inline Mathlib/Data/List/Basic.lean]: Golfed:
```suggestion
  forall_congr' fun _ => mem_iff_get.symm
```

File: Mathlib/Data/List/Basic.lean [hunk 7]
```diff
@@ -446,6 +446,19 @@ theorem forall_mem_iff_getElem {l : List α} {p : α → Prop} :
     (∀ x ∈ l, p x) ↔ ∀ (i : ℕ) (_ : i < l.length), p l[i] := by
   simp [mem_iff_getElem, @forall_swap α]
 
+theorem surjective_get_iff {l : List α} : l.get.Surjective ↔ (∀ x, x ∈ l) :=
```
Comment (eric-wieser) [inline Mathlib/Data/List/Basic.lean]: I think the naming guide would suggest `get_surjective_iff`, since surjective is called out as special.

**Comment by eric-wieser** [comment]
These all look like they would be good `simp` lemmas to me.

File: Mathlib/Data/List/Basic.lean (hunk 7 above)
Comment (SnirBroshi) [reply Mathlib/Data/List/Basic.lean]: This is the reverse of a comment I got previously on this PR, so the original names were fine 😅

**Comment by SnirBroshi** [comment]
-easy

**Comment by SnirBroshi** [comment]
-awaiting-author
